US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-2,4,6-trimethylbenzenesulfonamide hydrochloride (Scheme 3)
The compound was synthesized from of N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide and 2-mesitylenesulfonylchloride (59 mg, 0.27 mmol) to give 56 mg as purple solid. M+1 529.3 Calcd 529.70. 1HNMR δ 7.80-7.47 (m, 5H), 6.93 (s br, 2H), 6.64 (d, 1H), 6.46-6.39 (m, 2H), 3.60 (app t, 2H), 3.39 (app t, 2H), 3.21 (app t, 2H), 3.12 (app t, 2H), 2.36 (s, 6H), 2.26 (s, 3H), 2.08-2.00 (m, 2H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N4O4S
reactant | 2-mesitylenesulfonylchloride | 0.27 mmol, 59 mg | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
product | N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-2,4,6-trimethylbenzenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=C(C=C(C=C1C)C)C)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C26H32N4O4S2.ClH/c1-19-16-20(2)26(21(3)17-19)36(33,34)28-24-11-10-22(30-14-7-12-27-13-15-30)18-25(24)29-35(31,32)23-8-5-4-6-9-23;/h4-6,8-11,16-18,27-29H,7,12-15H2,1-3H3;1H
